US04708824
In a similar manner, phosphorus trichloride reacts with chloro(diphenyl)phosphine to give dichloro(phenyl)phosphine (German Pat. No. A-3,216,380):

reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | chloro(diphenyl)phosphine | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
product | dichloro(phenyl)phosphine | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
